US07601711B2
Ethyl 5-(3-dimethylamino-piperidine-1-carbonyl)-1H-indole-2-carboxylate
The title compound was synthesized in analogy to Example 1, Intermediate 1a), from 1H-indole-2,5-dicarboxylic acid 2-ethyl ester, 3-dimethylamino-piperidine and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride, to afford the product as a light-brown solid (63%).

reactant | 1H-indole-2,5-dicarboxylic acid 2-ethyl ester | CCOC(=O)C=1NC2=CC=C(C=C2C1)C(=O)O | C12H11NO4
reactant | 3-dimethylamino-piperidine | CN(C1CNCCC1)C | C7H16N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
product | Ethyl 5-(3-dimethylamino-piperidine-1-carbonyl)-1H-indole-2-carboxylate | CN(C1CN(CCC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)OCC)C | C19H25N3O3
